US20010003744A1
2-Bromo-5,6-dichlorobenzimidazole (1.0 g, 3.8 mmol), N,O-bis(trimethylsilyl) acetamide (Aldrich, 0.94 mL, 3.8 mmol), and acetonitrile (Aldrich Sure Seal, 25 mL) were combined and refluxed under nitrogen for 1 h. The solution was cooled to rt and trimethylsilyl triflate (Aldrich, 1.5 mL, 7.6 mmol) was added. After 15 min, solid 1,2,3,5-tetra-O-acetyl-L-ribofuranose (1.2 g, 3.8 mmol), prepared by the method of Guthrie and Smith (Chemistry and Industry, 1968, pp 547-548) except that L-ribose was used as the sating material, was added. The solution was stirred under nitrogen at rt for 18 h, then poured into 10% aqueous sodium bicarbonate (100 mL) and extracted with dichloromethane (2×150 mL). The organic layers were dried with magnesium sulfate (anhyd), filtered, and evaporated. The crude residue was purified on a silica gel column (5×20 cm, 230-400 mesh) with 1:30 acetone: CH2Cl2 to give 2-bromo-5,6-dichloro-1-3,4,5-tri-O-acetyl-beta-L-ribofuranosyl)-1H-benzimidazole (1.2 g, 2.2 mmol, 60%); m.p. 142° C.; [a]20D=(+) 87.4 (c=0.5 DMF); UV 1max (e) pH=7.0: 298 nm (7,600), 289 (7,400), 254 (8,800); 0.1 N NaOH: 298 mn (7,600), 289 (7,400), 256 (7,300); MS (EI): m/z (rel. intensity) 524 (0.15, M+); 1H NMR (DMSO-d6) d 8.08 (s, 1H, Ar-H), 8.01 (s, 1H, Ar-H), 6.22 (d, 1H, H-1′, J=7.1 Hz), 5.56 (dd, 1H, H-2′, J=7.1 Hz, J=7.2 Hz), 5.45 (dd, 1H, H-3′, J=7.2 Hz, J=4.5 Hz), 4.55-4.47 (m, 2H, H-4′ and 5′), 4.37 (d, 1H, H-5″, J=9.7 Hz), 2.15 (s, 3H, OAc), 2.14 (s, 3H, OAc), 2.01 (s, 3H, OAc).

reactant | 2-Bromo-5,6-dichlorobenzimidazole | 3.8 mmol, 1.0 g | BrC=1NC2=C(N1)C=C(C(=C2)Cl)Cl | C7H3BrCl2N2
reactant | N,O-bis(trimethylsilyl) acetamide | 3.8 mmol, 0.94 mL | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | trimethylsilyl triflate | 7.6 mmol, 1.5 mL | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | 1,2,3,5-tetra-O-acetyl-L-ribofuranose | 3.8 mmol, 1.2 g | C(C)(=O)OC1[C@@H](OC(C)=O)[C@@H](OC(C)=O)[C@@H](O1)COC(C)=O | C13H18O9
reactant | L-ribose | O=C[C@@H](O)[C@@H](O)[C@@H](O)CO | C5H10O5
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 1H-benzimidazole | 2.2 mmol, 1.2 g, 60% | N1C=NC2=C1C=CC=C2 | C7H6N2
